US05597922
3,8-Dihydrocyclobuta[b]quinoxaline-1,2-dione
The method of Skujins and Webb, Chem. Comm. 598 (1968), was used. Squaric acid (114 mg, 1.00 mmol; Aldrich Co.) was dissolved in hot water (2 mL) and o-phenylenediamine (108 mg, 1.00 mmol; Aldrich Co.) was dissolved in warm H2SO4 (2 mL, 25% w/v). The mixture was heated at 90°-100° C. for 2-3 min, and then allowed to cool to 25° C. The dark brown precipitate was collected by vacuum filtration and washed with water (10×5 mL), ethanol (10×5 mL), acetone (10×5 mL) and ether (10×5 mL), yielding 105 mg (56.5%): mp dec.>325° C. (lit. mp dec.>330° C.; Skujins and Webb, Chem. Comm. 598 (1968)). 1H NMR (300 MHz, DMSO-d6) δ 10.002 (s, 2H, 2 NH), 6.621-6.633 (m, 2H, H-4+H-7), 6.324-6.354 (m, 2H, H-5+H-6).

reactant | Squaric acid | 1.00 mmol, 114 mg | C1(=C(C(=O)C1=O)O)O | C4H2O4
reactant | o-phenylenediamine | 1.00 mmol, 108 mg | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | water | 2 mL | O | H2O
solvent | H2SO4 | 2 mL | OS(=O)(=O)O | H2O4S
product | 3,8-Dihydrocyclobuta[b]quinoxaline-1,2-dione | C1(C(C2=C1NC1=CC=CC=C1N2)=O)=O | C10H6N2O2
